US07737166B2
6-Bromo-2-[2-methoxy-1,1-dimethylethyl]-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-109)
6-Bromo-7-fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-108) (912.6 mg, 2.79 mmol) and (514 mg, 1.57 mmol) were separately dissolved in methylene chloride (9 ml and 5 ml), and aqueous 42% tetrafluoroboric acid solution (420 μl, 2.79 mmol) and (240 μl, 1.57 mmol) were individually added to each, then with cooling with ice, trimethylsilyldiazomethane (2 M hexane solution, 2.8 ml, 5.58 mmol) and (1.6 ml, 3.14 mmol) were dropwise added, followed by stirring at 0° C. for 40 minutes; but since the reaction did not finish, the same amount of aqueous 42% tetrafluoroboric acid solution and trimethylsilyldiazomethane were added, followed by stirring for 19 hours with heating up to room temperature. After the reaction, the two reaction solutions were combined, water was added, followed by extraction with ethyl acetate and washing with saturated brine. The obtained organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated away under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and eluted with a mixed solvent of n-hexane/ethyl acetate (10:1, v/v) to obtain the entitled compound (1.01 g, 68%) as a white solid.

reactant | 6-Bromo-7-fluoro-2-(2-hydroxy-1,1-dimethylethyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 2.79 mmol, 912.6 mg | BrC=1C(=C2C(N=C(O2)C(CO)(C)C)=C(C1C)C#N)F | C13H12BrFN2O2
reactant | tetrafluoroboric acid | 2.79 mmol, 420 μl | F[B-](F)(F)F.[H+]
reactant | trimethylsilyldiazomethane | 5.58 mmol, 2 M, 2.8 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | water | O | H2O
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | 6-Bromo-2-[2-methoxy-1,1-dimethylethyl]-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 1.01 g, 68% | BrC=1C(=C2C(N=C(O2)C(COC)(C)C)=C(C1C)C#N)F | C14H14BrFN2O2
